US04782052
Preparation of (-)-(1S,12bS)-1-ethyl-10-nitro-1,2,3,4,6,7,12,12b-octahydroindolo[2,3-a]quinolizin-1-yl-propionic acid (R)-1-phenylethylamide
0.371 g. (0.001 mole) of (-)-()1S,12bS)-1-ethyl-10-nitro-1,2,3,4,6,7,12,12b-octahydroindolo[2,3-a]quinolizin-1-yl-propionic acid is added to a solution containing 0.111 g. (0.0011 moles) of N-methylmorpholine (redistilled from sodium) in 4 ml. of dry tetrahydrofuran while stirring under nitrogen, then the solution is cooled to 0° C. and 0.108 g. (0.001 mole) of ethyl chloroformate is rapidly added dropwise while stirring vigorously and keeping the inner temperature at or lower than 0° C. for 30 minutes, whereupon a solution containing 0.133 g. (0.0011 moles) of (R)-1-phenylethylamine in 1 ml. of dry tetrahydrofuran is dropwise added at 0° C. while stirring, finally the mixture is stirred at 0° C. for 30 minutes at room temperature for additional 4 hours. Thereupon the reaction mixture is evaporated on a rotating evaporator and after shaking thoroughly the residue with 10 ml. of dichloromethane and 5 ml. of water, the phases are separated. The dichloromethane solution is washed at first with 5 ml of 5% sodium carbonate solution, then three times with 5 ml of water each, dried over anhydrous magnesium sulphate and evaporated. The crude residue is purified by column chromatography on silica gel by using toluene containing 10% of diethylamine as eluant to give 0.33 g (69.6% yield) of the title compound, M.P.: 130°-132° C., [α]D23 =-140.5 (C=1.0 chloroform) with and Rf value of 0.43 (polygram sil G/UV 254: developed by toluene containing 10% of diethylamine: detected by UV light).

reactant | 1-ethyl-10-nitro-1,2,3,4,6,7,12,12b-octahydroindolo[2,3-a]quinolizin-1-yl-propionic acid | C(C)C1(CCCN2CCC3=C(C12)NC1=CC(=CC=C13)[N+](=O)[O-])C(C(=O)O)C | C20H25N3O4
reactant | N-methylmorpholine | 0.0011 moles | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 0.001 mole | ClC(=O)OCC | C3H5ClO2
reactant | (R)-1-phenylethylamine | 0.0011 moles | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | diethylamine | C(C)NCC | C4H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (-)-(1S,12bS)-1-ethyl-10-nitro-1,2,3,4,6,7,12,12b-octahydroindolo[2,3-a]quinolizin-1-yl-propionic acid (R)-1-phenylethylamide | 0.33 g, 69.6% yield | C1(=CC=CC=C1)[C@@H](C)NC(C(C)[C@@]1(CCCN2CCC3=C([C@H]12)NC1=CC(=CC=C13)[N+](=O)[O-])CC)=O | C28H34N4O3
